US07485634B2
Preparation of Diethyl 3-(4-Fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5,8-dicarboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using diethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5,8-dicarboxylate and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.78 (1H, br s), 8.13 (2H, m), 7.81 (1H, m), 7.63 (2H, m), 7.53 (1H, d), 7.17 (2H, m), 4.39 (2H, q), 4.26 (4H, m), 3.28 (2H, t), 1.42 (3H, t), 1.23 (3H, t); MS (ES): 451 (MH+).

reactant | diethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5,8-dicarboxylate | C1CNC=C(C=2NC=3C=C(C=CC3C21)C(=O)OCC)C(=O)OCC | C18H20N2O4
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Diethyl 3-(4-Fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5,8-dicarboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=C(C=CC4C3CC2)C(=O)OCC)C(=O)OCC)C=C1 | C25H23FN2O5
